US09107916B2
A. ethyl 4-(2-chlorophenyl)-3-oxobutanoate
The title compound was prepared in 43% yield from 2-(2-chlorophenyl)acetic acid and 2,2-dimethyl-1,3-dioxane-4,6-dione according to the procedure for the preparation of Example 162, part A.

reactant | 2-(2-chlorophenyl)acetic acid | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | CC1(OC(CC(O1)=O)=O)C | C6H8O4
product | ethyl 4-(2-chlorophenyl)-3-oxobutanoate | 43% yield | ClC1=C(C=CC=C1)CC(CC(=O)OCC)=O | C12H13ClO3
